US07179801B2
To a suspension of sodium hydride (60% dispersion in mineral oil, 3.46 g) in tetrahydrofuran (250 ml) was added dropwise diethyl(cyanomethyl)phosphonate (23.3 ml) under ice-cooling. The mixture was stirred under ice-cooling for 1 hour. To the reaction mixture was added a solution of 1-(2-triphenylmethyloxyethyl)-5-aminopyrazole-4-carbaldehyde (47.76 g) in tetrahydrofuran (250 ml) at room temperature. The mixture was stirred at room temperature for 5 hours and extracted with ethyl acetate. The extract was washed with aqueous sodium hydrogencarbonate solution, water and brine. The extract was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was triturated with diisopropyl ether and dried in vacuo to give 4-[(E)-2-cyanoethenyl]-1-[2-(trityloxy)ethyl]-5-aminopyrazole (59.38 g). 1H-NMR(DMSO-d6) δ3.13 (2H, t, J=4.9 Hz), 4.15 (2H, t, J=4.9 Hz), 5.59 (1H, d, J=16.3 Hz), 6.35 (2H, s), 7.0–7.4 (15H, m), 7.47 (1H, d, J=16.3 Hz), 7.63 (1H, s)

reactant | sodium hydride | 3.46 g | [H-].[Na+]
reactant | diethyl(cyanomethyl)phosphonate | 23.3 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | 1-(2-triphenylmethyloxyethyl)-5-aminopyrazole-4-carbaldehyde | 47.76 g | C1(=CC=CC=C1)C(OCCN1N=CC(=C1N)C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H23N3O2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-[(E)-2-cyanoethenyl]-1-[2-(trityloxy)ethyl]-5-aminopyrazole | 59.38 g | C(#N)/C=C/C=1C=NN(C1N)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N4O
